US08445510B2
2-Methyl-1-[3-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]propan-2-ol
A solution of 1-(4-iodo-3-methyl-1H-pyrazol-1-yl)-2-methylpropan-2-ol (250.0 mg, 0.8925 mmol) in THF (10 mL, 200 mmol) was added 2 M of isopropylmagnesium chloride in THF (1.339 mL, 2.678 mmol) at rt, and the reaction was allowed to stir for 1 h. 2-Methoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (0.5850 mL, 3.570 mmol) was then added, and the mixture was stirred at rt for 2 h. Sat. NH4Cl was added to quench, and the organic solvent was removed in vacuo. The material was extracted with DCM and water, and the organic layer was concentrated in vacuo to afford the title compound as a white solid. The material was used in the next step without further purification.

reactant | 1-(4-iodo-3-methyl-1H-pyrazol-1-yl)-2-methylpropan-2-ol | 0.8925 mmol, 250.0 mg | IC=1C(=NN(C1)CC(C)(O)C)C | C8H13IN2O
reactant | THF | 200 mmol, 10 mL | C1CCOC1 | C4H8O
reactant | isopropylmagnesium chloride | 2 M | C(C)(C)[Mg]Cl
reactant | THF | 2.678 mmol, 1.339 mL | C1CCOC1 | C4H8O
reactant | 2-Methoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 3.570 mmol, 0.5850 mL | COB1OC(C(O1)(C)C)(C)C | C7H15BO3
reactant | NH4Cl | [NH4+].[Cl-]
product | 2-Methyl-1-[3-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]propan-2-ol | CC(CN1N=C(C(=C1)B1OC(C(O1)(C)C)(C)C)C)(C)O | C14H25BN2O3
